datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C 10,11=10,20"
"CC(C)(C)C[Si:11](C)(C)[H:10].CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)C[Si+:11](C)C.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[C:11]([CH:10](C1=CC=CC=C1)[S:20]C(F)F)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][C:11](C)=[CH2:10]>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](C)=[O+:12][Si:63]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1CCCCC[C:11](=[CH2:10])CCCCC1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>C1CCCCC[C+:11]([CH2:10][CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]2)CCCCC1 10,11=10,20;20,21=21,22;22,23=23"
"CC[Sn:63](CC)(CC)[CH2:62][CH2:11][H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[Sn:63](CC)(CC)[CH2:62][CH2+:11].CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.[O:10]=[C:11]1[CH:12]=[CH:13][C:14](=[N+:15]([O-:16])[O-:67])[CH:73]=[CH:72]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([O:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])[CH:73]=[CH:72]2)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CC[O:72]/[C:11](=[CH:10]/[S+:61](C)C)[O-:12].CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CC[O:72][C:11]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](OC)=[C:24]([O-:25])[C:33](OC)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[S+:61](C)C)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C(C/[N:10]=[CH:62]/C2=CC=CC=C2)C=C1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20](/[N+:10](CC2=CC=CC=C2)=[CH:62]\C2=CC=CC=C2)([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10=20
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].CC1(C)[O:62][C:11]([O-:12])=[C:10]([I+:72]C2=CC=CC=C2)[C:81](=[O:82])[O:92]1>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([C:10]1([I+:72]C2=CC=CC=C2)[C:11](=[O:12])[O:62]C(C)(C)[O:92][C:81]1=[O:82])[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2-:11][H:10])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2:11])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1CCC[C:20](=[O:21])CC1.C[Si:11](C)([H:10])[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C>>C1CCC[C:20]([H:10])([O-:21])CC1.C[Si+:11](C)[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C 10,11=10,20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si:73](C)(C)[CH2:72][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][C+:11]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH2:72][Si:73](C)(C)C)/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
